US06451834B1
A solution of lithium diisopropylamide (11.3 ml of a 20M solution in heptane/THF/ethylbenzene) was added dropwise to a stirred solution of 5-methoxyindan-1-one tert-butyloxycarbonylhydrazone (2.5 g) in tetrahydrofuran (100 ml) at −78° C. under nitrogen. The mixture was stirred at this temperature for 1.5 hours and then a solution of ethyl thiophene-2-carboxylate (1.69 g) in tetrahydrofuran (10 ml) was added dropwise. After the addition the mixture was stirred for 30 minutes at −78° C. and then allowed to warm to ambient temperature. After stirring for a further 20 minutes at ambient temperature, saturated ammonium chloride solution (100 ml) was added and the mixture was stirred vigorously for ten minutes. The layers were separated and the aqueous layer was extracted with ether (3×75 ml). The combined organics were washed with 1M hydrochloric acid, then brine, and then dried, filtered and evaporated to give a yellow gum which was suspended in dichloromethane (25 ml) and pentamethylbenzene (1.34 g) was added. The mixture was cooled to 0° C. and trifluoroacetic acid (0.2 ml) was added. The mixture was stirred for 64 hours and then concentrated under reduced pressure to give an oil which was dissolved in ether (200 ml), washed with saturated sodium bicarbonate solution (100 ml), then brine, then dried, filtered and evaporated to give a gum which was purified by flash column chromatography using petroleum ether, b.p. 60-80° C./ethyl acetate (4:1) as the mobile phase to give 6-methoxy-2-tert-butyloxycarbonyl-3-(2-thienyl)-1,4-dihydroindeno[1,2-c]pyrazole, m.p. 163-165° C.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-methoxyindan-1-one tert-butyloxycarbonylhydrazone | 2.5 g | C(C)(C)(C)OC(=O)NN=C1CCC2=CC(=CC=C12)OC | C15H20N2O3
reactant | ethyl thiophene-2-carboxylate | 1.69 g | S1C(=CC=C1)C(=O)OCC | C7H8O2S
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | pentamethylbenzene | 1.34 g | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
reactant | trifluoroacetic acid | 0.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 6-methoxy-2-tert-butyloxycarbonyl-3-(2-thienyl)-1,4-dihydroindeno[1,2-c]pyrazole | COC=1C=C2CC3=C(NN(C3C=3SC=CC3)C(=O)OC(C)(C)C)C2=CC1 | C20H22N2O3S
